US08426358B2
Synthesis of 3-(5-(methylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile
To a solution of 5-(methylthio)-1,3,4-thiadiazole-2-thiol (821 mg, 5.0 mmol) in DMF and benzene (10 ml, 1/1) was added NaH (60% dispersion in mineral oil, 220 mg, 5.5 mmol) slowly at 0° C. under nitrogen atmosphere. The resulting suspension was stirred at 0° C. for 15 minutes and then to the mixture was added 3-chloropyrazine-2-carbonitrile (698 mg, 5.0 mmol). The reaction was stirred at 80° C. for 4 hr. The reaction was then cooled to room temperature and quenched with saturated NH4Cl solution and extracted with EtOAc. The combined organic layers were washed with water, brine and dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography on silica gel to give the title compound as a white solid.

reactant | 5-(methylthio)-1,3,4-thiadiazole-2-thiol | 5.0 mmol, 821 mg | CSC1=NN=C(S1)S | C3H4N2S3
reactant | NaH | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 5.0 mmol, 698 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-(methylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile | CSC1=NN=C(S1)SC=1C(=NC=CN1)C#N | C8H5N5S3
